US06660753B2
To a solution of 4-(5-Fluoro-2-pyridyl)-1-trityl-1H-imidazole (0.23 g, 0.56 mmol) in tetrahydrofuran (4 ml) added hydrochloric acid (2.4 ml, 2N aqueous). The resulting reaction mixture was heated at reflux for 45 min. The reaction mixture was cooled to room temperature and concentrated in-vacuo. The isolated residue was triturated with diethyl ether to yield 4-(5-Fluoro-2-pyridyl)imidazole (0.06 g) as the hydrochloride salt.

reactant | 4-(5-Fluoro-2-pyridyl)-1-trityl-1H-imidazole | 0.56 mmol, 0.23 g | FC=1C=CC(=NC1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H20FN3
reactant | hydrochloric acid | 2N, 2.4 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(5-Fluoro-2-pyridyl)imidazole | 0.06 g | FC=1C=CC(=NC1)C=1N=CNC1 | C8H6FN3
